### PR TITLE
Add Erdős Problem 441 (sets with pairwise bounded lcm), link the formal disproof

### LINKED ISSUE #6238: Erdős Problem 441
### What is the Erdős problem?

https://www.erdosproblems.com/441

Let $N\geq 1$. What is the size of the largest $A\subset \{1,\ldots,N\}$ such that $[a,b]\leq N$ for all $a,b\in A$, where $[a,b]$ is the least common multiple of $a$ and $b$? Is it attained by choosing all integers in $[1,(N/2)^{1/2}]$ together with all even integers in $[(N/2)^{1/2},(2N)^{1/2}]$?

Status: disproved (Chen–Dai: the construction is not optimal for infinitely many $N$; Chen: $g(N) \sim (9N/8)^{1/2}$). A formal proof exists in plby/lean-proofs (`Erdos441.not_erdos_441`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6238.

### What changed
Adds `FormalConjectures/ErdosProblems/441.lean` with `g N` (largest `A ⊆ {1..N}` with all pairwise lcms `≤ N`), Erdős' construction `erdosConstruction N`, and:
- `erdos_441` (`research solved`, `answer(False)`): the construction is not optimal for every `N ≥ 1` (Chen–Dai [ChDa07]). Linked to plby/lean-proofs `Erdos441.not_erdos_441` (Codex and GPT-5.6 Sol; single Mathlib-only file), which exhibits infinitely many `N` with `|B| < g N`.
- Variants: `chen_dai_infinitely_often` (`g N ≥ |B| + t` with `t` the iterated logarithm, via `Real.iteratedLog`), `lower_bound`, `erdos_upper_bound` [Er51b], `chen` (`g N ~ √(9N/8)` [Ch98]) and `chen_dai_upper_bound` [DaCh06].

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos441.not_erdos_441` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `g` is a `Finset.sup` over the filtered powerset; the bridge shows it equals the `sSup` here):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge441

/-- The two extremal functions agree. -/
lemma g_eq (N : ℕ) : Erdos441.g N = Erdos441Plby.g N := by
  unfold Erdos441.g Erdos441Plby.g
  have hbdd : BddAbove {k | ∃ A : Finset ℕ,
      A ⊆ Finset.Icc 1 N ∧ (∀ a ∈ A, ∀ b ∈ A, Nat.lcm a b ≤ N) ∧ A.card = k} := by
    refine ⟨N, ?_⟩
    rintro k ⟨A, hA, -, rfl⟩
    simpa using Finset.card_le_card hA
  apply le_antisymm
  · refine csSup_le ⟨0, ∅, by simp, by simp, by simp⟩ ?_
    rintro k ⟨A, hA, hlcm, rfl⟩
    exact Finset.le_sup (f := Finset.card) (Erdos441Plby.mem_candidates.2 ⟨hA, hlcm⟩)
  · apply Finset.sup_le
    intro A hA
    obtain ⟨hsub, hlcm⟩ := Erdos441Plby.mem_candidates.1 hA
    exact le_csSup hbdd ⟨A, hsub, hlcm, rfl⟩

lemma erdosConstruction_eq : Erdos441.erdosConstruction = Erdos441Plby.erdosConstruction := rfl

theorem erdos_441_bridge : type_of% Erdos441.erdos_441 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨N, hN, hlt⟩ := Erdos441Plby.not_erdos_441.2 1
  have := h N hN
  rw [g_eq, erdosConstruction_eq] at this
  omega

end Bridge441
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«441»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/441.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/441.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
